US07939537B2
Step 3: Methyl 9-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-oxo-4-H-pyrido[1,2-a]pyrimidine-2-carboxylate
To a solution of benzyl (2-amino-1-oxidopyridin-3-yl)carbamate in chloroform (filtered over alumina) was added DMAD and p-toluenesulfonic acid. The suspension was stirred at 70° C. for 12 hours. The solvent was then removed under reduced pressure and to the residue was added MeOH. The solid was filtered, washed with MeOH and dried under vacuum.

reactant | benzyl (2-amino-1-oxidopyridin-3-yl)carbamate | NC1=[N+](C=CC=C1NC(OCC1=CC=CC=C1)=O)[O-] | C13H13N3O3
reactant | DMAD | COC(=O)C#CC(=O)OC | C6H6O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 9-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-oxo-4-H-pyrido[1,2-a]pyrimidine-2-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1=CC=CN2C1=NC(=C(C2=O)O)C(=O)OC | C18H15N3O6
